US04237144
6,7-Dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde (3.2 g., 0.01 mole) is dissolved in methanolic cesium chloride (25 ml., 0.4 M). Trimethylorthoformate (2.12 g., 0.02 mole) is added and the solution is stirred (magnetically) at room temperature for 30 minutes and then poured into aqueous sodium hydrogen carbonate (50 ml.). The mixture is extracted with ether (2×50 ml.). The ether extracts are combined, washed with brine (2×15 ml.), dried over MgSO4 and distilled at reduced pressure to give the 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde dimethylacetal.

reactant | 6,7-Dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde | 0.01 mole, 3.2 g | ClC1=C(C2=C(CC(O2)C=O)C=C1C(C1=CC=CS1)=O)Cl | C14H8Cl2O3S
reactant | Trimethylorthoformate | 0.02 mole, 2.12 g | COC(OC)OC | C4H10O3
reactant | sodium hydrogen carbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | cesium chloride | 0.4 M, 25 ml | [Cl-].[Cs+]
product | 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxaldehyde dimethylacetal | COC(C1OC2=C(C1)C=C(C(=C2Cl)Cl)C(C2=CC=CS2)=O)OC | C16H14Cl2O4S
